* D:\ACA\Github\Electronics3\Circuit_1_Dilmi\ringN.asc
XX1 N002 0 N003 N001 not
XX2 N004 0 N005 N001 not
XX3 N006 0 N007 N001 not
R1 N004 N003 1k
R2 N006 N005 1k
R3 N002 N007 1k
C1 N004 0 1p
C2 N006 0 1p
C3 N002 0 1p
VDD N001 0 5
V§PULSE NC_01 0 PULSE(0 5 1p 1p 1p 0.5m 1m)

* block symbol definitions
.subckt not IN GND NOT VDD
M1 NOT IN VDD VDD PMOS
M2 NOT IN GND GND NMOS
.ends not

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Oshan\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m
.backanno
.end
