* D:\ACA\Sem4\Electronics 3\project\Draft19.asc
V1 V 0 5
V2 A 0 PULSE(0 5 1p 1p 1p 0.5m 1m)
V3 B 0 PULSE(0 5 1p 1p 1p 1m 2m)
V4 C 0 PULSE(0 5 1p 1p 1p 1.5m 3m)
XX1 0 A B C 0 0 0 0 0 0 0 V V OUT prom

* block symbol definitions
.subckt prom GND InA InB InC S1 S2 S3 S4 S5 S6 S7 S8 VDD OUT
XX1 0 InA VDD N001 not
XX2 0 InB VDD N002 not
XX3 0 InC VDD N003 not
XAND_1 0 N001 N002 N003 VDD N004 3_and
XAND_2 0 N001 N002 InC VDD N006 3_and
XAND_3 0 N001 InB N003 VDD N008 3_and
XAND_4 0 N001 InB InC VDD N010 3_and
XAND_5 0 InA N002 N003 VDD N012 3_and
XAND_6 0 InA N002 InC VDD N014 3_and
XAND_7 0 InA InB N003 VDD N016 3_and
XAND_8 0 InA InB InC VDD N018 3_and
XX4 0 N007 N005 VDD N020 2_or
XX12 0 N009 N020 VDD N021 2_or
XX13 0 N011 N021 VDD N022 2_or
XX14 0 N013 N022 VDD N023 2_or
XX15 0 N015 N023 VDD N024 2_or
XX16 0 N017 N024 VDD N025 2_or
XX5 0 N019 N025 VDD OUT 2_or
M1 N005 S1 N004 0 NMOS
C2 N005 0 1p
M2 N007 S2 N006 0 NMOS
C4 N007 0 1p
M3 N009 S3 N008 0 NMOS
C6 N009 0 1p
M4 N011 S4 N010 0 NMOS
C8 N011 0 1p
M5 N013 S5 N012 0 NMOS
C10 N013 0 1p
M6 N015 S6 N014 0 NMOS
C12 N015 0 1p
M7 N017 S7 N016 0 NMOS
C14 N017 0 1p
M8 N019 S8 N018 0 NMOS
C16 N019 0 1p
C1 N004 0 1p
C3 N006 0 1p
C5 N008 0 1p
C7 N010 0 1p
C9 N012 0 1p
C11 N014 0 1p
C13 N016 0 1p
C15 N018 0 1p
.ends prom

.subckt not GND In VDD Out
M1 VDD In Out N001 PMOS
M2 Out In GND N002 NMOS
.ends not

.subckt 3_and GND InA InB InC VDD OUT
XNAND_1 GND InA InB VDD N001 nand
XNOT_1 GND InC VDD N002 not
XNOR_1 GND N001 N002 VDD OUT nor_2
.ends 3_and

.subckt 2_or GND InA InB VDD OUT
XNOR_1 GND InA InB VDD N001 nor_2
XNOT_1 GND N001 VDD OUT not
.ends 2_or

.subckt nand GND InA InB VDD Out
M1 VDD InA Out VDD PMOS
M2 VDD InB Out VDD PMOS
M3 Out InA N001 GND NMOS
M4 N001 InB GND GND NMOS
.ends nand

.subckt nor_2 GND InA InB VDD Out
M1 VDD InA N002 N001 PMOS
M2 N002 InB Out N001 PMOS
M4 Out InA GND GND NMOS
M3 Out InB GND GND NMOS
.ends nor_2

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Oshan\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m
.backanno
.end
